US07897612B2
22a) 6-(methyloxy)-N-(phenylmethyl)-3-pyridinamine
A solution of 5-amino-2-methoxypyridine (1.00 g, 8.06 mmol) in dichloromethane (20.0 mL) was treated with benzaldehyde (0.080 mL, 8.06 mmol) followed by stirring at ambient temperature for 20 min. The mixture was then treated with sodium cyanoborohydride (1.79 g, 8.46 mmol) followed by acetic acid (0.460 mL, 8.06) and continued stirring for 2 h. The solution was treated with water and saturated sodium hydrogen carbonate, and then extracted twice with dichloromethane. The combined organic portions were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting oil was swirled in hexanes, and a solid was filtered. The filtrate was concentrated and the title compound was obtained as a light pink solid (0.340 g, 20%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.61 (d, J=2.5 Hz, 1H), 7.28-7.41 (m, 5H), 7.01 (dd, J=8.8, 3.0 Hz, 1H), 6.62 (d, J=9.3 Hz, 1H), 4.30 (s, 2H), 3.87 (s, 3H). MS(ES+) m/e 215 [M+H]+.

reactant | 5-amino-2-methoxypyridine | 8.06 mmol, 1.00 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | benzaldehyde | 8.06 mmol, 0.080 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 8.46 mmol, 1.79 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetic acid | 0.460 mL | C(C)(=O)O | C2H4O2
product | 6-(methyloxy)-N-(phenylmethyl)-3-pyridinamine | COC1=CC=C(C=N1)NCC1=CC=CC=C1 | C13H14N2O
